US07863310B2
1-Isobutyl-6-phenylethynyl-1H-benzimidazol-2-ylamine
Heat a mixture of Pd(OAc)2 (1.25 g, 5.59 mmol), CuI (0.42 g, 2.23 mmol), P(t-Bu)3 (2.76 mL, 11.2 mmol), K2CO3 (30.3 g, 223.8 mmol) and 6-bromo-1-isobutyl-1H-benzimidazol-2-ylamine (30 g, 111.9 mmol) in DMSO (200 mL) at 70° C. Add phenylacetylene (14.6 mL, 133.4 mmol) and heat the mixture for 6 hours at 70° C. Cool and dilute with H20. Filter the residue through a pad of celite. Recrystallize the crude mixture in toluene to give the desired compound as a white solid (19.68 g, 60%).

reactant | P(t-Bu)3 | 11.2 mmol, 2.76 mL | P(C(C)(C)C)(C(C)(C)C)C(C)(C)C | C12H27P
reactant | K2CO3 | 223.8 mmol, 30.3 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 6-bromo-1-isobutyl-1H-benzimidazol-2-ylamine | 111.9 mmol, 30 g | BrC=1C=CC2=C(N(C(=N2)N)CC(C)C)C1 | C11H14BrN3
reactant | phenylacetylene | 133.4 mmol, 14.6 mL | C1(=CC=CC=C1)C#C | C8H6
solvent | DMSO | 200 mL | CS(=O)C | C2H6OS
catalyst | Pd(OAc)2 | 5.59 mmol, 1.25 g | CC(=O)[O-].CC(=O)[O-].[Pd+2]
catalyst | CuI | 2.23 mmol, 0.42 g | [Cu]I
product | 1-Isobutyl-6-phenylethynyl-1H-benzimidazol-2-ylamine | 19.68 g, 60% | C(C(C)C)N1C(=NC2=C1C=C(C=C2)C#CC2=CC=CC=C2)N | C19H19N3
